US05308853
Methyl Z-4-[[2-butyl-5-[[1-(hydroxymethyl)-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride
To a solution of methyl Z-4-[[2-butyl-5-[[2,5-dioxo-1-[[2-(trimethylsilyl)ethoxy]methyl]-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate (0.390 g, 0.760 mmol) in DMF (5 mL) is added K2CO3 (0.525 g, 3.80 mmol). After stirring for 5 minutes 4-chloromethyl-2-methylthiazole hydrochloride (0.275 g, 1.49 mmol) is added. The mixture is stirred for 16 hours. Water is added and the gum that precipitates is separated. This gum is dissolved in ethyl acetate, washed with water and brine, and then dried over MgSO4. Chromatography eluting with 0.5% methanol in chloroform and evaporation in vacuo affords a viscous oil. This oil is dissolved in methylene chloride (5 mL) and treated with trifluoroacetic acid (5 mL). After stirring for 90 minutes the mixture is concentrated in vacuo and then extracted into methylene chloride from pH 7 buffer. The organic phase is dried over MgSO44 and then evaporated in vacuo to afford an oil. This oil is disssolved in 2-propanol and treated with ethereal HCl (1M, 2 mL). The white gummy solid that results is crystallized from methanol/2-propanol/ether.

reactant | methyl Z-4-[[2-butyl-5-[[2,5-dioxo-1-[[2-(trimethylsilyl)ethoxy]methyl]-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate | 0.760 mmol, 0.390 g | C(CCC)C=1N(C(=CN1)\C=C\1/NC(N(C1=O)COCC[Si](C)(C)C)=O)CC1=CC=C(C(=O)OC)C=C1 | C26H36N4O5Si
reactant | K2CO3 | 3.80 mmol, 0.525 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 1.49 mmol, 0.275 g | Cl.ClCC=1N=C(SC1)C
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 1M, 2 mL | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | 2-propanol | CC(C)O | C3H8O
solvent | Water | O | H2O
product | Methyl Z-4-[[2-butyl-5-[[1-(hydroxymethyl)-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride | Cl.Cl.C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CO)=O)CC=1N=C(SC1)C)CC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C26H29N5O5S.2ClH/c1-4-5-6-23-27-12-21(29(23)13-18-7-9-19(10-8-18)25(34)36-3)11-22-24(33)31(16-32)26(35)30(22)14-20-15-37-17(2)28-20;;/h7-12,15,32H,4-6,13-14,16H2,1-3H3;2*1H/b22-11-;;
